US06593333B1
4-(4-Chloro-2-fluorophenoxy)-6-methoxy-7-(N-methylpiperidin-3-ylmethoxy)quinazoline (8.7 g, 20 mmol) was dissolved in 2M aqueous hydrochloric acid (150 ml) and the mixture was stirred and heated to reflux for 1.5 hours. The reaction mixture was concentrated by evaporation under vacuum and the residue was basified to pH9 by the addition of saturated aqueous ammonium hydroxide solution. The aqueous layer was extracted with methylene chloride (4×400 ml). The combined organic extracts were filtered through phase-separating paper and evaporated. The solid so obtained was triturated under diethyl ether to give 6-methoxy-7-(N-methylpiperidin-3-ylmethoxy)-3,4-dihydroquinazolin-4-one (4.05 g, 66%) as a white solid; NMR: (DMSOd6) 1.05 (m, 1H), 1.40-1.95 (m, 5H), 2.02 (m, 1H), 2.14 (s, 3H), 2.59 (d, 1H), 2.78 (d, 1H), 3.85 (s, 3H), 3.95 (d, 2H), 7.09 (s, 1H), 7.42 (s, 1H), 7.95 (s, 1H), 12.0 (s, 1H); Mass: M+H+ 304.

reactant | 4-(4-Chloro-2-fluorophenoxy)-6-methoxy-7-(N-methylpiperidin-3-ylmethoxy)quinazoline | 20 mmol, 8.7 g | ClC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)OCC2CN(CCC2)C)C=C1)F | C22H23ClFN3O3
solvent | hydrochloric acid | 2M, 150 ml | Cl | ClH
product | 6-methoxy-7-(N-methylpiperidin-3-ylmethoxy)-3,4-dihydroquinazolin-4-one | 4.05 g, 66% | COC=1C=C2C(NC=NC2=CC1OCC1CN(CCC1)C)=O | C16H21N3O3
